US06420359B1
c) 3-Amino-2-(ethylamino)-6-fluoropyridine
A solution of 2-(ethylamino)-6-fluoro-3-nitropyridine (43.2 g, 230 mmol) in THF (1 L) was stirred overnight at room temperature under hydrogen (1 atm.) in the presence of 20% Pd(OH)2/C (4.35 g). The catalyst was removed by filtration through diatomaceous earth. The filtrate was concentrated under reduced pressure to give the title compound (36.3 g, 95% yield) as a black solid.

reactant | 2-(ethylamino)-6-fluoro-3-nitropyridine | 230 mmol, 43.2 g | C(C)NC1=NC(=CC=C1[N+](=O)[O-])F | C7H8FN3O2
solvent | THF | 1 L | C1CCOC1 | C4H8O
catalyst | Pd(OH)2/C | 4.35 g | [OH-].[OH-].[Pd+2]
product | 3-Amino-2-(ethylamino)-6-fluoropyridine | 36.3 g, 95% yield | NC=1C(=NC(=CC1)F)NCC | C7H10FN3
